US08217043B2
b) 1-Amino-4,5-dichloro-1H-pyrrole-2-carboxylic acid methyl ester
A mixture of 4,5-dichloro-1-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-1H-pyrrole-2-carboxylic acid methyl ester (5.44 g) and hydrazine monohydrate (1.57 mL) in ethanol was stirred at rt overnight, by which time TLC showed complete conversion; then the solids were filtered off, the filtrate was concentrated and worked up with EtOAc and water; EtOAc phase was washed with sat. NaCl solution and dried over anhydrous sodium sulfate, filtered, concentrated, the crude was column purified (EtOAc/Hexanes) to give desired product (2.21 g). ESI (m/z): 209 (M+H)+.

reactant | 4,5-dichloro-1-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-1H-pyrrole-2-carboxylic acid methyl ester | 5.44 g | COC(=O)C=1N(C(=C(C1)Cl)Cl)N1C(C2=CC=CC=C2C1=O)=O | C14H8Cl2N2O4
reactant | hydrazine monohydrate | 1.57 mL | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 1-Amino-4,5-dichloro-1H-pyrrole-2-carboxylic acid methyl ester | 2.21 g | COC(=O)C=1N(C(=C(C1)Cl)Cl)N | C6H6Cl2N2O2
